US05879657
A solution of Boc-D-Val-NMeArg(Tos)-Gly-OBzl (4.50 g, 6.53 mmol) in 80 ml of methanol was purged with nitrogen gas, 1.30 g of 10% Pd/C was added, and hydrogen gas was passed over the reaction. After 1 hour the catalyst was removed by filtration through a bed of celite, and the solvent removed under reduced pressure. The resulting solid was triturated with ether, filtered, and washed with petroleum ether to provide Boc-D-Val-NMeArg(Tos)-Gly (3.05 g, 78%); 1H NMR (D6 -DMSO) d 7.90 (br t, 1H), 7.65 (d, 2H), 7.30 (d, 2H), 7.00 (d, 1H), 6.85 (br d, 1H), 6.60 (br s, 1H), 5.00 (dd, 1H), 4.15 (t, 1H), 3.70 (m, 2H), 3.05 (m, 2H), 2.90 (s, 3H), 2.35 (s, 3H), 1.90 (m, 2H), 1.55 (m, 1H), 1.35 (s, 9H), 1.25 (m, 2H), 0.80 (br t, 6H); FAB-MS: [M+H]=599.45.

reactant | Boc-D-Val-NMeArg(Tos)-Gly-OBzl | 6.53 mmol, 4.50 g | N([C@H](C(C)C)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C33H48N6O8S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | Pd/C | 1.30 g | [Pd] | Pd
product | Boc-D-Val-NMeArg(Tos)-Gly | 3.05 g, 78% | N([C@H](C(C)C)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)O)C)C(=O)OC(C)(C)C | C26H42N6O8S
